US07956054B2
4′-Methylbiphenyl-2-sulfonic acid 1-dimethylaminometh-(E)-ylideneamide
2-Bromo-N-[1-dimethylaminometh-(E)-ylidene]-benzenesulfonamide (5.4 g, 18.4 mmol), 4-methylphenylboronic acid (5.0 g, 36.8 mmol) and potassium carbonate (5.1 g, 36.8 mmol) were dissolved in water (19.7 mL, 1090 mmol), EtOH (49.2 mL, 842 mmol) and toluene (98.3 mL, 923 mmol). The resulting mixture was stirred under nitrogen. Tetrakis(triphenylphosphine)palladium(0) (1.4 g, 1.2 mmol) was added. The mixture was heated at 60° C. for 115 minutes, at 70° C. for 30 minutes, then cooled to room temperature. Water (100 mL) and EtOAc (100 mL) were added. The mixture was washed with saturated aqueous NaCl, extracted with EtOAc, dried over MgSO4, filtered, and concentrated to yield a red solid. The product was triturated with 1:1 EtOAc:hexanes, filtered, and rinsed with hexanes to yield a reddish-brown solid. The product was triturated with EtOAc, filtered, and rinsing with EtOAc to yield the title compound (4.6 g) as a light brown solid.

reactant | 2-Bromo-N-[1-dimethylaminometh-(E)-ylidene]-benzenesulfonamide | 18.4 mmol, 5.4 g | BrC1=C(C=CC=C1)S(=O)(=O)/N=C/N(C)C | C9H11BrN2O2S
reactant | 4-methylphenylboronic acid | 36.8 mmol, 5.0 g | CC1=CC=C(C=C1)B(O)O | C7H9BO2
reactant | potassium carbonate | 36.8 mmol, 5.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | EtOH | 842 mmol, 49.2 mL | CCO | C2H6O
reactant | toluene | 923 mmol, 98.3 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 1.2 mmol, 1.4 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | Water | 100 mL | O | H2O
solvent | water | 1090 mmol, 19.7 mL | O | H2O
product | 4′-Methylbiphenyl-2-sulfonic acid 1-dimethylaminometh-(E)-ylideneamide | 4.6 g | CN(\C=N\S(=O)(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C)C | C16H18N2O2S
